US08426420B2
ii) 4-((S)-2-Amino-3-tert-butoxycarbonylamino-propionyl)-piperazine-1-carboxylic acid ethyl ester
A solution of 1.71 g 4-[(S)-3-tert-butoxycarbonylamino-2-(9H-fluoren-9-ylmethoxycarbonylamino)-propionyl]-piperazine-1-carboxylic acid ethyl ester in 50 ml THF was stirred in the presence of 4 ml 1-octanethiol and 90 μl DBU. After 12 h the mixture was concentrated, the residue dissolved in dichloromethane and extracted with 0.1 M HCl. The aqueous phase was brought to pH9 by adding aqueous NaHCO3 before being extracted with dichloromethane. The product was obtained after evaporation of the solvent and was used in the subsequent reaction.

reactant | 4-[(S)-3-tert-butoxycarbonylamino-2-(9H-fluoren-9-ylmethoxycarbonylamino)-propionyl]-piperazine-1-carboxylic acid ethyl ester | 1.71 g | C(C)OC(=O)N1CCN(CC1)C([C@H](CNC(=O)OC(C)(C)C)NC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)=O | C30H38N4O7
reactant | 1-octanethiol | 4 ml | C(CCCCCCC)S | C8H18S
reactant | DBU | 90 μl | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 4-((S)-2-Amino-3-tert-butoxycarbonylamino-propionyl)-piperazine-1-carboxylic acid ethyl ester | C(C)OC(=O)N1CCN(CC1)C([C@H](CNC(=O)OC(C)(C)C)N)=O | C15H28N4O5
